US08981104B2
1-(Chloromethyl)-4-[2-(4-fluorophenyl)ethyl]benzene
At 0° C., 14.96 ml of thionyl chloride in 100 ml of dichloromethane were slowly added dropwise to a solution of 31.5 g (136.7 mmol) of {4-[2-(4-fluorophenyl)ethyl]phenyl}methanol in 400 ml of dichloromethane. After the addition had ended, the reaction mixture was warmed to room temperature and stirred at this temperature for another 2 hours. The reaction mixture was then once more cooled to 0° C., and 200 ml of saturated aqueous sodium bicarbonate solution were added slowly and carefully, with vigorous stirring. Subsequently, small portions of solid sodium bicarbonate were added to the solution until the pH had been adjusted to 6. The phases were then separated, and the organic phase was dried over magnesium sulphate, filtered and concentrated to dryness. This gave 28.5 g (114.5 mmol, 84% of theory) of the title compound.

reactant | thionyl chloride | 14.96 ml | S(=O)(Cl)Cl | Cl2OS
reactant | {4-[2-(4-fluorophenyl)ethyl]phenyl}methanol | 136.7 mmol, 31.5 g | FC1=CC=C(C=C1)CCC1=CC=C(C=C1)CO | C15H15FO
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 1-(Chloromethyl)-4-[2-(4-fluorophenyl)ethyl]benzene | ClCC1=CC=C(C=C1)CCC1=CC=C(C=C1)F | C15H14ClF
